US05449674
8-Chlorodibenz[b,f][1,4]-oxazepine-10(11H)-carbonyl chloride is synthesized in the manner described in U.S. Pat. No. 3,534,019: Phosgene (13 g, 131.4 mmol) in toluene (45 g) is stirred for 2 hours at 5°-10° C. and then diethyl ether (70 g) is added. This is followed by the addition of a solution of 8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine (18.9 g, 81.6 mmol), prepared in the manner described in Example 1, and triethylamine (7.2 g, 9.92 mL, 71.2 mmol) in diethyl ether (140 g). After the addition is complete, the mixture is stirred for 2 hours, and then is filtered. The solvent is then evaporated from the filtrate, and the resulting residue is recrystallized from hexane, giving 8-chlorodibenz[b,f][1,41oxazepine-10(11H)-carbonyl chloride.

reactant | Phosgene | 131.4 mmol, 13 g | C(=O)(Cl)Cl | CCl2O
reactant | 8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine | 81.6 mmol, 18.9 g | ClC1=CC2=C(OC3=C(CN2)C=CC=C3)C=C1 | C13H10ClNO
reactant | triethylamine | 71.2 mmol, 9.92 mL, 7.2 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 45 g | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 140 g | C(C)OCC | C4H10O
solvent | diethyl ether | 70 g | C(C)OCC | C4H10O
product | 8-chlorodibenz[b,f][1,41oxazepine-10(11H)-carbonyl chloride | ClC1=CC2=C(OC3=C(CN2C(=O)Cl)C=CC=C3)C=C1 | C14H9Cl2NO2
